US04849420
2-[(1,2,3,4-Tetrahydro-6,7 -dimethoxy-1-isoquinolyl)methyl]benzene-acetic acid methyl ester (Xc)
The title compound was prepared was described in Example 10 from 2-[(3,4-dihydro-6,7-dimethoxy-1-isoquinolyl)methyl]benzeneacetic acid methyl ester (IXc, Ex. 9) and sodium borohydride, and the oil product was usd in the subsequent reaction without purification.

reactant | 2-[(3,4-dihydro-6,7-dimethoxy-1-isoquinolyl)methyl]benzeneacetic acid methyl ester | COC(CC1=C(C=CC=C1)CC1=NCCC2=CC(=C(C=C12)OC)OC)=O | C21H23NO4
reactant | sodium borohydride | [BH4-].[Na+]
product | 2-[(1,2,3,4-Tetrahydro-6,7 -dimethoxy-1-isoquinolyl)methyl]benzene-acetic acid methyl ester | COC(CC1=C(C=CC=C1)CC1NCCC2=CC(=C(C=C12)OC)OC)=O | C21H25NO4
